US08956613B2
Preparation of 1-[(2R,4R,5R)-3,3-Difluoro-4-hydroxy-5-(hydroxy-methyl)oxolan-2-yl]-1,2-dihydro-4-(heptyloxycarbonylamino)pyrimidin-2-one (43).
Using Method A and heptyl chloroformate, gemcitabine hydrochloride was converted to 43 (white solid, 93% yield): 1H NMR (200 MHz, DMSO-d6) δ 10.87 (s, 1H), 8.24-8.28 (d, 1H), 7.12-7.16 (d, 1H), 6.33-6.37 (d, 1H), 6.16-6.24 (t, 1H), 5.31-5.36 (t, 1H), 4.19-4.33 (m, 1H), 4.10-4.17 (t, 2H), 3.63-3.94 (m, 3H), 1.60-1.66 (t, 2H), 1.29-1.31 (t, 8H), 0.86-0.92 (t, 3H).

reactant | heptyl chloroformate | ClC(=O)OCCCCCCC | C8H15ClO2
reactant | gemcitabine hydrochloride | C1=CN(C(=O)N=C1N)[C@H]2C([C@@H]([C@H](O2)CO)O)(F)F.Cl
product | 1-[(2R,4R,5R)-3,3-Difluoro-4-hydroxy-5-(hydroxy-methyl)oxolan-2-yl]-1,2-dihydro-4-(heptyloxycarbonylamino)pyrimidin-2-one | 93% yield | FC1([C@@H](O[C@@H]([C@H]1O)CO)N1C(N=C(C=C1)NC(=O)OCCCCCCC)=O)F | C17H25F2N3O6
